Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / Doxepin / Haldol
 
Attending: ___
 
Chief Complaint:
"I'm not safe on my own."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ y/o female with a long-history of mood d/o NOS
complicated by PSA who came to ___ ED by public transportation
with active suicidal ideation including plan to run into 
oncoming
traffic. The patient was just recently released from jail after
she was arrested secondary to multiple outstanding warrants for
her arrest as a result of prior assaults, public intoxication,
and prostitution. She is due to follow up in court on ___.
While in jail, she reportedly attempted to hang herself using 
her
bra. Since her release, she has been abusing methadone, 
klonopin,
and cocaine while engaging in prostitution. 

When asked why the patient wants to end her life, she says that
she is upset that she can't see her son ever since her mother
took custody. She also has not been able to see her Therapist
___ ___ in what she considers a timely 
fashion.
Lastly, she cites her prostitution as a factor in her poor mood. 


She endorses poor sleep, low energy, irritability, excessive
feelings of guilt, and psychomotor retardation. She indicates
that her concentration is unaffected, citing her ability to read
the Bible. 

She denies any pertinent positives related to mania or 
psychosis.
 
Past Medical History:
Past Psychiatric History:
The patient's
first hospitalization occurred at age ___ at a time when she was
being molested by her brother. Since then, she has been admitted
to ___, and ___ as well as the
___. She reports approximately 10 prior suicide attempts. 

She has in the past been diagnosed as having PTSD, anxiety, BPD,
MDD v. Bipolar d/o. 

She was most recently being prescribed Prozac, Ativan, 
Trazodone,
and Seroquel (unknown doses). The patient self-discontinued 
these
medications approximately 3 months ago because she felt they 
were
causing her to gain weight. 

Past Medical History:
* Asthma
* Eczema
* S/p miscarriage (___)
* Reports h/o seizures while on doxepin

PAST PSYCHIATRIC HISTORY (Per ___, ___, M.D., ___:
* Diagnoses of borderline personality disorder, and reported 
diagnoses of MDD and PTSD
* Many previous hospitalizations, most recently at the ___ last 
month
* Reports many past suicide attempts, many overdoses and once 
lying down in traffic
* Reports past assaultive behavior, and admits to being banned 
from several shelters for this
 
Social History:
___
Family History:
* Father was an alcoholic
* Sister with depression
* ___ other psychiatric history
 
Physical Exam:
Physical Exam:
VS: T 98.0, BP 122/84, HR 104, R 16, SaO2 100%
___: S1S2, RRR
Lungs: CTA b/l
Abdomen: Soft, NT/ND
Extremities: Warm and well perfused.
Neuro: Cranial nerves II-XII intact. Good motor bulk and tone.
Motor strength ___ globally. Sensory exam intact to pinprick,
light touch, vibratory sensation, proprioception. Reflexes 2+
globally. Coordination intact with finger-nose-finger and
heel-to-shin. Gait is steady, narrow-based. Tandem gait 
performed
successfully. Romberg negative. 

MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL EXPRESSION: The patient appears
disheveled and older than her stated age.
     POSTURE: She is lying on the bed. 
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): No abnormal
movements.
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE): fully 
cooperative
with interviewer
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
normal rate, volume, tone.
     MOOD: "sad"
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.):
congruent, dysphoric. 
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.): linear and
logical, goal-directed. 
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.): None
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS): denies
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO): as described above
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT, PLAN):
suicidal ideation with vague plans to run into oncoming traffic
and reported intent. Negative for HI. 
     INSIGHT AND JUDGMENT: limited and poor
     COGNITIVE ASSESSMENT: 
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): Awake,
mildly drowsy after receiving Ativan in ED
          ORIENTATION: oriented to place, indicates it is
___
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): Able to
say ___ backwards. 
          MEMORY (SHORT- AND LONG-TERM): unable to recall any
words at 5 minutes even with prompting. 
          CALCULATIONS: 9 quarters = $2.25
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): Knew that
___ was President on ___. 
          PROVERB INTERPRETATION: Abstract/Appropriate
interpretation of "grass is greener..."
          SIMILARITIES/ANALOGIES: Apples and oranges are "both
round fruit"

 
Pertinent Results:
___ 01:35PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 01:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:35PM   GLUCOSE-57* UREA N-12 CREAT-1.1 SODIUM-134 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-24 ANION GAP-14
___ 01:35PM   ALT(SGPT)-13 AST(SGOT)-21 ALK PHOS-74 TOT 
BILI-0.2
___ 01:35PM   CALCIUM-9.2 PHOSPHATE-3.9 MAGNESIUM-2.0
___ 01:35PM   TSH-0.64
___ 01:35PM   HCG-<5
___ 01:35PM URINE  UCG-NEGATIVE
___ 01:35PM   WBC-8.5 RBC-5.29 HGB-14.1 HCT-44.0 MCV-83 
MCH-26.7* MCHC-32.1 RDW-16.7*
___ 01:35PM   NEUTS-40* BANDS-0 ___ MONOS-11 EOS-11* 
BASOS-0 ATYPS-5* METAS-1* MYELOS-0
___ 01:35PM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL
___ 01:35PM   PLT SMR-NORMAL PLT COUNT-362
___ 01:35PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
# Psychiatric: 
The patient demonstrated generally good behavioral control on 
the unit, despite occasions of low frustration tolerance; the 
patient could become angry with staff for perceived slights or 
perceived neglect but managed to self-seclude and self-soothe 
effectively. She denied suicidal ideation on the unit and 
verbalized her wish to be admitted to substance-abuse treatment, 
preferably in an inpatient setting. She also acknowledged that, 
in light of her current legal problems, the court would look 
favorably on her placement in treatment. Although on initial 
interview the patient endorsed hopelessness and presented as 
labile, irritable, and somewhat evasive, she subsequently became 
quite reliably euthymic and often bright in affect, with little 
affective lability apparent during interactions with the 
treatment team and a cooperative demeanor. As is her wont, 
however, she remained focused on externalization, preoccupied 
typically with her medication regimen, including the short 
lorazepam taper instituted to facilitate her transition away 
from benzodiazepine abuse and off of cocaine. She tolerated this 
taper without adverse effects and completed it on ___. For 
management of insomnia and nocturnal anxiety in the context of 
PTSD, the patient tolerated a trial of amitriptyline, titrated 
up to a maintenance dose of 100 mg PO QHS, although this dose 
might require further titration in the future to optimize 
efficacy. On the unit, at least, this dose of amitriptyline has, 
by her report, helped with sleep. She was written for clonidine 
PRN at HS for persistent sleeplessness; she found clonidine 
helpful for anxiolysis, so it was advanced to 0.1 mg PO BID PRN 
with good effect. Diphenhydramine PRN nasal congestion likely 
provided additional anxiolysis and hypnotic benefit without 
excessive sedation. 

# Medical:
- Asthma: The patient reported occasional shortness of breath; 
at her request, she was written for albuterol MDI PRN shortness 
of breath, which she used intermittently. She was not observed 
to be overtly dyspneic in house, and her oxygen saturation was 
within normal limits on routine vital-signs monitoring.
- Seasonal allergies: The patient complained of "hay fever," 
with rhinorrhea and nasal congestion, and requested loratadine, 
which she reports using at home. This was not on hospital 
formulary; fexofenadine was offered but, per patient report, was 
ineffective. She was switched to diphenhydramine PRN, with good 
effect.
- Eczema: The patient was provided with hydrocortisone and 
triamcinolone creams PRN itching; she had no complaints of 
breakthrough dermatologic symptoms.
- Nutritional Status: In light of the patient's history of 
polysubstance abuse, she was maintained on a multivitamin, 
thiamine, and folate.
 
# Legal/Safety:
- Legal Status: The patient was admitted on Conditional 
Voluntary status (Secs. 10, 11) and remained on that status for 
the duration of her hospital stay
- Safety Monitoring: The patient was maintained on routine 
q15minute safety checks, as she denied SI, felt safe on the 
unit, and demonstrated good behavioral control.
- Outstanding Legal Issues: The patient reported having a court 
hearing scheduled for ___ related to outstanding warrants 
for assault and battery, prostitution, and drug possession. Her 
attorney, ___, reports that the patient does not have 
outstanding warrants per se and that her attendance at the 
___ hearing was not required. He indicates that he is 
continuing work to "settle" the patient's legal issues. Both he 
and the patient indicated that the court wishes the patient to 
be actively engaged in substance-abuse treatment. The treatment 
team provided the patient and Mr. ___ with a letter confirming 
the patient's presence on this psychiatric inpatient unit and 
her acceptance of treatment while here.

# Disposition:
- Substance-abuse treatment: The patient was accepted for 
admission to ___ for inpatient substance-abuse 
treatment. She was amenable to this treatment plan, however 
declined at the last moment, stating "I want to smoke a 
cigarette."
- Mental Health: The patient has been instructed to follow up 
with her therapist of long standing, ___, Director of 
Mental Health at ___. Mr. ___ visited 
with the patient on the unit and has been in communication with 
the treatment team during her stay. Mr. ___ will receive a 
faxed copy of the patient's discharge summary.
- Primary Care: The patient has been instructed to follow up 
with her primary care physician, ___, M.D., also of 
___. Dr. ___ will receive a faxed 
copy of the patient's discharge summary.
- Family/Domestic: The patient's plan is to live with her father 
after completing inpatient treatment, then continue with 
outpatient recovery services. Her father reportedly is willing 
to allow her to live in his home only if she is in treatment.
 
Medications on Admission:
None. The patient was most recently being prescribed Prozac, 
Ativan, Trazodone,
and Seroquel (unknown doses). The patient self-discontinued 
these
medications approximately 3 months ago because she felt they 
were
causing her to gain weight. 
 
Discharge Medications:
1. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Cortisone 1 % Cream Sig: One (1) Appl Topical QID (4 times a 
day) as needed for eczema.  
5. Triamcinolone Acetonide 0.025 % Cream Sig: One (1) Appl 
Topical BID (2 times a day) as needed for itching.  
6. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation Q6H (every 6 hours) as needed for 
shortness of breath.  
7. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety, insomnia.  
8. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO Q8H 
(every 8 hours) as needed for nasal congestion.  
9. Amitriptyline 100 mg PO QHS (at bedtime).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Axis I: 
Polysubstance dependence
Mood Disorder not otherwise specified
Rule out Substance-Induced Mood Disorder
history of Post-Traumatic Stress Disorder
Axis II: mixed cluster B traits (Borderline and Antisocial 
features)
Axis III: Asthma, eczema, seasonal allergies
Axis IV: Unemployment, financial problems, scant social support
Axis V: 35
 
Discharge Condition:
Ambulatory without assistive device or activity restrictions.
Alert and oriented.
No acute medical issues at discharge.

 
Discharge Instructions:
Please take all discharge medications as directed. If you have 
questions about medication, please contact your doctor.

Please attend all scheduled follow-up appointments. If you need 
to reschedule an appointment, please call your doctor in 
advance.

Please avoid alcohol, cocaine, and other substances of abuse. In 
addition, please avoid misuse of prescription drugs. In the 
hospital, we tapered you off of benzodiazepines using lorazepam 
(Ativan). You have expressed to us your understanding that you 
will be discharged from this facility without a prescription for 
benzodiazepines.

Please consult with your lawyer, ___ (___), 
to discuss ongoing legal issues.
 
Followup Instructions:
___